US04220648
A solution of 1,2-dihydro-2-oxo-6-neopentyl-3-cyanopyridine (8.8 g) and 400 ml of absolute ethanol is cooled in an ice bath and a slow stream of anhydrous hydrogen chloride is passed therethrough for 2 hr. The resulting solution is allowed to stand at ambient temperature for 3 days. Thereafter the solvent is evaporated under reduced pressure at ambient temperature, and the resulting material dissolved in warm trichloromethane. Acetone is added and following cooling the material is recovered by filtration and washed with acetone, yielding ethyl-1,2-dihydro-6-neopentyl-3-pyridine-carboximidate hydrochloride.

reactant | 1,2-dihydro-2-oxo-6-neopentyl-3-cyanopyridine | 8.8 g | O=C1NC(=CC=C1C#N)CC(C)(C)C | C11H14N2O
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | ethyl-1,2-dihydro-6-neopentyl-3-pyridine-carboximidate hydrochloride | Cl.C(C)OC(=N)C=1CNC(=CC1)CC(C)(C)C | InChI=1S/C13H22N2O.ClH/c1-5-16-12(14)10-6-7-11(15-9-10)8-13(2,3)4;/h6-7,14-15H,5,8-9H2,1-4H3;1H
